Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Oxycodone / 
cilostazol / Varenicline
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath

 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Ms. ___ is a ___ female with history of 
COPD on home O2, atrial fibrillation on apixaban, hypertension, 
CAD, and hyperlipidemia who presents with shortness of breath, 
cough, and wheezing for one day.

The patient reports shortness of breath, increased cough 
productive of ___ red-flected sputum, and wheezing since 
yesterday evening.  She has been using albuterol IH more 
frequently (___) with ipratropium nebs every 4 hours with 
minimal relief. She had to increase her O2 flow up to 4L without 
significant improvement. She was currently taking 10mg of 
prednisone. She has also been taking tiotropium IH, 
theophylline, advair IH at home as prescribed. She denies sick 
contacts. She quit smoking approximately 1 month ago.

She reports an episode of chest pain in waiting room while 
sitting down, non-exertional, resolved after 2 minutes. She 
denies fever/chills, abdominal pain, nausea/vomiting, 
palpitations, and diaphoresis.  

She was recently admitted from ___ to ___ for dyspnea that 
was thought to be secondary to steroid taper for recent COPD 
exacerbation with a component of anxiety (not an acute COPD 
exacerbation) and was treated with steroids and duonebs but no 
antibiotics. She had a CT that showed emphysema but no evidence 
of infection such as ___. Pulmonary was consulted and 
recommended increasing her Advair dose to 500/50 (which was 
done) and switching from theophylline to 
roflumilast and initiation of long-term azithromycin therapy 
(which was deferred for outpatient follow-up) She was initiated 
on a steroid 
taper on ___ of prednisone 30 mg for 3 days, then 20 mg for 3 
days, then 10 mg until outpatient follow-up.

In the ED, initial vital signs were: 97.6 67 132/82 22 97% 4L. 
Exam was notable for limited air movement with wheezing 
bilaterally. Labs were notable for WBC 7.1, H/H 12.8/41.1, Plt 
233, Na 133, K 3.6, BUN/Cr ___, trop < 0.01, BNP 181, lactate 
1.5, VBG 7.43/___. Imaging with CXR showed mild basilar 
atelectasis without definite focal consolidation. The patient 
was given Duonebs and solumedrol 125mg IV. Vitals prior to 
transfer were:

Upon arrival to the floor, she reports her breathing is 
improved.

REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, fevers, chills, 
sweats, weight loss, abdominal pain, nausea, vomiting, diarrhea, 
constipation, hematochezia, dysuria, rash, paresthesias, and 
weakness.
 
Past Medical History:
- COPD/Asthma on home 2L O2
- Atypical Chest Pain
- Hypertension
- Hyperlipidemia
- Osteroarthritis
- Atrial Fibrillation on Apixaban
- Anxiety
- Cervical Radiculitis
- Cervical Spondylosis
- Coronary Artery Disease
- Headache
- Herpes Zoster
- GI Bleeding
- Peripheral Vascular Disease s/p bilateral iliac stents
- s/p hip replacement
 
Social History:
___
Family History:
Mother with asthma and hypertension. Father with colon cancer. 
Brother with leukemia.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
VITALS: Temp 97.3, HR 76, O2 sat 160/80, RR 20, O2 sat 94% 4L
GENERAL: AOx3, speaking in full sentences, NAD, resting in bed 
comfortably.
HEENT: NCAT. PERRL. EOMI. Sclera anicteric and not injected. 
MMM. Oropharynx is clear.
NECK: Supple. No LAD. JVP not appreciated at 45 degrees.
CARDIAC: Irregularly irregular, normal rate. ___ systolic murmur 

at the RUSB. No rubs or gallops.
LUNGS: Expiratory wheezes throughout with poor air movement.
ABDOMEN: +BS, soft, nontender, and nondistended.
EXTREMITIES: Warm and well-perfused. No edema. 2+ DP pulses 
bilaterally. 
NEUROLOGIC: A&Ox3, CNII-XII intact, strength and sensation 
grossly intact bilaterally.

DISCHARGE PHYSICAL EXAM:
===========================
VITALS: Tm 99.1, 146/69 (143-159/69-77), 94, 22, 94-95%% 2L
GENERAL: speaking in full sentences, NAD, resting in bed 
comfortably.
CARDIAC: rrr, normal rate. ___ systolic murmur at the RUSB
LUNGS: +mild wheezes throughout
ABDOMEN: +BS, soft, nontender, and nondistended.
EXTREMITIES: Warm and well-perfused. 1+ b/l ___ edema. 
NEUROLOGIC: grossly nonfocal, aaox3
 
Pertinent Results:
ADMISSION LABS: 
=========================
___ 05:54PM BLOOD WBC-7.1 RBC-4.74 Hgb-12.8 Hct-41.1 MCV-87 
MCH-27.0 MCHC-31.1* RDW-22.6* RDWSD-69.0* Plt ___
___ 05:54PM BLOOD Neuts-81.8* Lymphs-9.6* Monos-7.6 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-5.82 AbsLymp-0.68* 
AbsMono-0.54 AbsEos-0.02* AbsBaso-0.01
___ 06:35AM BLOOD Calcium-9.9 Phos-4.1 Mg-2.0
___ 05:54PM BLOOD ___ pO2-52* pCO2-49* pH-7.43 
calTCO2-34* Base XS-6
___ 05:54PM BLOOD Lactate-1.5
___ 05:54PM BLOOD proBNP-181
___ 05:54PM BLOOD cTropnT-<0.01

STUDIES: 
=========================
+ CXR (___): Mild basilar atelectasis without definite focal 
consolidation.
+ EKG: Sinus rhythm at 69, left bundle branch block, no acute ST 
or T wave changes.

DISCHARGE LABS: 
=========================
___ 06:38AM BLOOD WBC-14.4*# RBC-4.34 Hgb-11.8 Hct-37.6 
MCV-87 MCH-27.2 MCHC-31.4* RDW-22.5* RDWSD-69.4* Plt ___
___ 06:38AM BLOOD Glucose-113* UreaN-18 Creat-0.8 Na-137 
K-3.1(repleted)* Cl-94* HCO3-31 AnGap-15

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of 
COPD on home O2, atrial fibrillation on apixaban, hypertension, 
CAD, and hyperlipidemia who presents with shortness of breath, 
cough, and wheezing for one day. Pt recently DC'd from hospital 
for dyspnea, treated only w/nebs and steroids as not thought ___ 
true COPD exacerbation, c/f anxiety component. Pt re-admitted 
w/similar Sx, thought ___ COPD exacerbation, received nebs, 
steroids, azithromycin. Pt's wheezing, cough, SOB improved 
shortly after admission, O2 titrated down & satting well on 2L 
in mid-90s which is baseline. Evaluated by ___, recommended DC to 
pulmonary rehab, pt was agreeable. 

ACTIVE ISSUES
=================
# Shortness of Breath: Patient with history of COPD and recent 
admission for dyspnea in the setting of steroid taper. Her 
symptoms on presentation were consistent with severe COPD given 
diffuse wheezing and poor air movement. She likely had an 
exacerbation in the setting of a decrease in her steroids. There 
may also be a component of anxiety. She underwent CT last 
admission that was negative for infections such as ___. She was 
continued on home spiriva, theophylline, advair. She was started 
on standing duonebs q6h and albuterol q2h prn and prednisone was 
started at 40mg daily with slow taper. She was also given 
azithromycin to complete 5 day course. She had improvement in 
her wheezing and returned to baseline O2 requirement after 48 
hours. She was seen by ___ who felt that she would benefit from 
discharge to inpatient pulmonary rehabilitation program. On DC 
to ___ rehab, recommended continued Prendisone 40mg 
daily for 1x week with slow taper by 5mg every 5 days. ___ also 
consider starting bactrim ppx with extended duration of steroids 
if unable to wean less than 20mg qd. Will also f/u as outpatient 
with pulm.

CHRONIC ISSUES: 
==================
# Anxiety/Insomnia: Continued home lorazepam. Consider starting 
SRRI as an outpatient. 
# Atrial Fibrillation: Continued dilt for rate control and 
apixaban for anticoagulation.
# Hypertension: Continued home imdur, hydrochlorothiazide, and 
diltiazem.
# CAD: Cardiac catheterization in ___ without evidence of 
significant stenosis of coronaries. ECHO on ___ with EF > 
55% and no regional or global wall motion abnormalities. 
Continued home aspirin and atorvastatin.
# Anemia: Continued home iron supplements.

TRANSITIONAL ISSUES:
==========================
[] For pt's continued COPD exacerbations, recommend finishing 5d 
course of Azithromycin, 250mg qd until ___
[] Recommend extended prednisone taper for pt, 5d 40mg 
Prednisone (to finish ___ followed by 10mg taper every 5 days 
(35mg from ___, 30mg ___, etc...). 
[] Would consider PCP prophylaxis with ___ if unable to wean 
prednisone to less than 20mg daily. 
[] Pt's SOB may have an anxiety component, may benefit from 
starting SSRI in addition to home benzos already prescribed

# CONTACT: Full Code
# CODE STATUS: ___ (husband/HCP) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. Apixaban 5 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Diltiazem Extended-Release 240 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
10. Hydrochlorothiazide 50 mg PO DAILY 
11. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
12. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
13. Multivitamins 1 TAB PO DAILY 
14. PredniSONE 10 mg PO DAILY 
15. Ranitidine 300 mg PO DAILY 
16. Theophylline SR 300 mg PO BID 
17. Tiotropium Bromide 1 CAP IH DAILY 
18. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 
19. cod liver oil 1 capsule  oral BID 
20. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
21. albuterol sulfate 90 mcg/actuation inhalation Q4H 
22. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
23. Lorazepam 0.5 mg PO Q8H:PRN Anxiety 
24. Guaifenesin ___ mL PO Q4H:PRN cough 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q4H:PRN Pain 
2. albuterol sulfate 90 mcg/actuation inhalation Q4H 
3. Apixaban 5 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Atorvastatin 10 mg PO QPM 
6. Diltiazem Extended-Release 240 mg PO BID 
7. Docusate Sodium 100 mg PO BID 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN allergies 
11. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
12. Guaifenesin ___ mL PO Q4H:PRN cough 
13. Hydrochlorothiazide 50 mg PO DAILY 
14. Isosorbide Mononitrate (Extended Release) 240 mg PO DAILY 
15. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
16. Lorazepam 0.5 mg PO Q8H:PRN Anxiety 
17. Multivitamins 1 TAB PO DAILY 
18. Ranitidine 300 mg PO DAILY 
19. Theophylline SR 300 mg PO BID 
20. Tiotropium Bromide 1 CAP IH DAILY 
21. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315 mg - 
200 units  oral DAILY 
22. cod liver oil 1 capsule  oral BID 
23. Ipratropium Bromide Neb 1 NEB IH Q6H:PRN Wheezing 
24. Nicotine Patch 7 mg TD DAILY 
25. Azithromycin 250 mg PO Q24H Duration: 4 Doses 
please take until ___. PredniSONE 40 mg PO DAILY Duration: 5 Days 
40mg until ___ 
Tapered dose - DOWN 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
COPD Exacerbation

SECONDARY:
Afib
Anxiety
HTN
CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after you developed 
shortness of breath and wheezing at home shortly after your last 
discharge. You were treated for a COPD exacerbation and your 
breathing quickly got better. Our physical therapists evaluated 
you and recommended that you have a short stay at Pulmonary 
___ before going home to improve your breathing. 

We wish you all the best at rehab and send our condolences to 
your family on your recent loss.

It was truly a pleasure taking care of you.

Your ___ Team
 
Followup Instructions:
___